US05273993
Benzenebutanol sulfamate (ester).
The title compound was obtained using the following procedure: The sulfamoyl chloride in acetonitrile solution prepared in (a) was reacted as in Example 12 with 17.7 g (0.118 mole) of 4-phenylbutanol, 46.4 g (0.459 mole) of triethylamine in 100 ml additional acetonitrile followed by using extracting, washing and concentration procedures of Example 12 through the first evaporation. The viscous residue was purified by high pressure liquid chromatography (Waters Associates Prep LC/System 500A Prep Pak 500® silica. Eluting solvent used was methylene chloride at a flow rate of 200 ml/min). Fractions containing the title compound were combined and the solvent was evaporated under reduced pressure to give 19.3 g of colorless, viscous oil which solidified on standing. The solid was recrystallized from ethyl ether-petroleum ether (bp range 30°-60° C.) to give 16.9 g (63%) of title compound as white solid, mp 79°-81° C.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 4-phenylbutanol | 0.118 mole, 17.7 g | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | triethylamine | 0.459 mole, 46.4 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Benzenebutanol sulfamate | 16.9 g, 63% | S(N)(=O)(=O)OCCCCC1=CC=CC=C1 | C10H15NO3S
